US04735940
(adc) 4.85 g of 7-chloro-thieno[2,3-c]pyridine was dissolved in 15 ml of dimethylformamide and 3.18 g of sodium hydrogen sulfide monohydrate were added under argon. The mixture was heated to 110°-115° for one hour, an additional 1.06 g of sodium hydrogen sulfide monohydrate were added and the mixture was held at the temperature indicated above for an additional hour. The mixture was poured on to 150 ml of ice-water and acidified with 1N aqueous hydrochloric acid solution. After stirring at 2° for a short time, the yellowish crystals were removed by filtration. After recrystallization from a toluene/ethyl acetate mixture, there was obtained pure thieno[2,3-c]pyridine-7(6H)-thione, m.p. 187°-189°.

reactant | 7-chloro-thieno[2,3-c]pyridine | 4.85 g | ClC=1N=CC=C2C1SC=C2 | C7H4ClNS
reactant | sodium hydrogen sulfide monohydrate | 3.18 g | O.S.[Na]
reactant | sodium hydrogen sulfide monohydrate | 1.06 g | O.S.[Na]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | thieno[2,3-c]pyridine-7(6H)-thione | S1C=CC2=C1C(NC=C2)=S | C7H5NS2
